US04572908
B. 2-[2-(3-Amino-1H-1,2,4-triazol-5-ylamino)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
N-{2-[(4{-2-Chlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethyl}-N'-cyano-S-methyl-isothiourea (0.4 g) and hydrazine hydrate (0.15 ml) were dissolved in ethanol (20 ml) and heated under reflux for 3 hours. The solvent was then evaporated and toluene (10 ml) was added to the residue, and again the solution was evaporated to dryness. The residue was chromatographed on Merck "Kieselgel 60H" (Trade Mark), eluting with 2% methanol in methylene chloride, to give a beige solid. The solid was recrystallized from ethyl acetate plus a trace of ether to give the title compound, yield 0.1 g, m.p. 137°-138°.

reactant | N-{2-[(4{-2-Chlorophenyl}-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl)methoxy]ethyl}-N'-cyano-S-methyl-isothiourea | 0.4 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNC(SC)=NC#N)C(=O)OCC | C23H27ClN4O5S
reactant | hydrazine hydrate | 0.15 ml | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[2-(3-Amino-1H-1,2,4-triazol-5-ylamino)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | NC1=NNC(=N1)NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C22H27ClN6O5
